### PR TITLE
Add `randomSampling`

### PR DESCRIPTION
**Pull request by gaetanserre**
Add the `randomSampling` algorithm.

### CODE REVIEW

File: LeanMachineLearning/SequentialLearning/Algorithms/RandomSampling.lean [hunk 1]
```diff
@@ -0,0 +1,74 @@
...
+open Set in
+/-- The Pure Random Search algorithm. -/
+@[simps]
+noncomputable def randomSampling (μ : Measure α) [IsProbabilityMeasure μ] : Algorithm α β where
+  policy _ := Kernel.const _ μ
+  p0 := μ
+
+namespace randomSampling
+
+variable {A : ℕ → Ω → α} {R : ℕ → Ω → β} {f : α → β} (hf : Measurable f)
```
Comment (RemyDegenne) [inline LeanMachineLearning/SequentialLearning/Algorithms/RandomSampling.lean]: I think you don't use this?
```suggestion
variable {A : ℕ → Ω → α} {R : ℕ → Ω → β}
```

File: LeanMachineLearning/SequentialLearning/Algorithms/RandomSampling.lean [hunk 2]
```diff
@@ -0,0 +1,74 @@
...
+
+/-- Each action follows the distribution μ. -/
+lemma hasLaw_actions {env : Environment α β}
+    (h : IsAlgEnvSeq A R (randomSampling μ) env P) (n : ℕ) : HasLaw (A n) μ P := by
```
Comment (RemyDegenne) [inline LeanMachineLearning/SequentialLearning/Algorithms/RandomSampling.lean]:
```suggestion
lemma hasLaw_actions {env : Environment α β}
    (h : IsAlgEnvSeq A R (randomSampling μ) env P) (n : ℕ) :
    HasLaw (A n) μ P := by
```
To make the conclusion easily visible.

Also, you could put `env` in the `variable` line.

File: LeanMachineLearning/SequentialLearning/Algorithms/RandomSampling.lean [hunk 3]
```diff
@@ -0,0 +1,74 @@
...
+  by_cases hn : n = 0
+  · rw [hn]
+    exact h.hasLaw_action_zero
+  · push Not at hn
+    obtain ⟨k, rfl⟩ := Nat.exists_eq_succ_of_ne_zero hn
+    exact hasLaw_of_hasCondDistrib_const <| h.hasCondDistrib_action k
+
+/-- Actions are mutually independent. -/
+lemma iIndep_actions {env : Environment α β}
+    (h : IsAlgEnvSeq A R (randomSampling μ) env P) : iIndepFun A P := by
```
Comment (RemyDegenne) [inline LeanMachineLearning/SequentialLearning/Algorithms/RandomSampling.lean]:
```suggestion
lemma iIndep_actions {env : Environment α β}
    (h : IsAlgEnvSeq A R (randomSampling μ) env P) :
    iIndepFun A P := by
```

File: LeanMachineLearning.lean [hunk 4]
```diff
@@ -1,26 +1,25 @@
-module
```
Comment (RemyDegenne) [inline LeanMachineLearning.lean:1]: You did something strange here. Perhaps you used `lake exe mk_all`? It does not work anymore since we switched to the module system. You should revert that change and add your import by hand.

File: LeanMachineLearning/SequentialLearning/Algorithms/RandomSampling.lean [hunk 5]
```diff
@@ -0,0 +1,74 @@
...
+noncomputable def randomSampling (μ : Measure α) [IsProbabilityMeasure μ] : Algorithm α β where
+  policy _ := Kernel.const _ μ
+  p0 := μ
+
+namespace randomSampling
+
+variable {A : ℕ → Ω → α} {R : ℕ → Ω → β} {f : α → β} (hf : Measurable f)
+
+/-- Each action follows the distribution μ. -/
+lemma hasLaw_actions {env : Environment α β}
```
Comment (RemyDegenne) [inline LeanMachineLearning/SequentialLearning/Algorithms/RandomSampling.lean]:
```suggestion
lemma hasLaw_action {env : Environment α β}
```
For coherence with other lemmas in the library.

File: LeanMachineLearning/SequentialLearning/Algorithms/RandomSampling.lean [hunk 6]
```diff
@@ -0,0 +1,74 @@
...
+    (h : IsAlgEnvSeq A R (randomSampling μ) env P) (n : ℕ) : HasLaw (A n) μ P := by
+  by_cases hn : n = 0
+  · rw [hn]
+    exact h.hasLaw_action_zero
+  · push Not at hn
+    obtain ⟨k, rfl⟩ := Nat.exists_eq_succ_of_ne_zero hn
+    exact hasLaw_of_hasCondDistrib_const <| h.hasCondDistrib_action k
+
+/-- Actions are mutually independent. -/
+lemma iIndep_actions {env : Environment α β}
```
Comment (RemyDegenne) [inline LeanMachineLearning/SequentialLearning/Algorithms/RandomSampling.lean]:
```suggestion
lemma iIndep_action {env : Environment α β}
```

**Review by RemyDegenne — COMMENTED** [review]
Can you put everything in the RandomSampling file in the Learning namespace? (and keep your randomSampling namespace inside of that)

File: LeanMachineLearning.lean (hunk 4 above)
Comment (gaetanserre) [reply LeanMachineLearning.lean:1]: Indeed, I used `lake exe mk_all` which did not preserve the module system. However, it seems like the `lake exe mk_all --module` command do what we want (see [a8669a1](https://github.com/LeanMachineLearning/LML/pull/91/commits/a8669a125db567471acc9a97724ab333ae7f8673)), which would prevent writing the imports by hand.

File: LeanMachineLearning/SequentialLearning/Algorithms/RandomSampling.lean [hunk 7]
```diff
@@ -0,0 +1,78 @@
...
+open scoped Topology
+
+namespace Learning
+
+variable {α β Ω : Type*} [MeasurableSpace α] [MeasurableSpace β] [StandardBorelSpace α] [Nonempty α]
+  [StandardBorelSpace β] [Nonempty β] {μ : Measure α} [IsProbabilityMeasure μ] [MeasurableSpace Ω]
+  {P : Measure Ω} [IsProbabilityMeasure P]
+
+open Set in
+/-- The Pure Random Search algorithm. -/
```
Comment (RemyDegenne) [inline LeanMachineLearning/SequentialLearning/Algorithms/RandomSampling.lean]: Please update this docstring (change the name and explain what the algorithm does)

**Review by RemyDegenne — APPROVED** [review]
Thanks!
